US05973190
Preparation of 1-(p-Chlorophenyl)-1-[2-fluoro-3-(m-phenoxyphenyl)propenyl]cyclopropane, (9:1) Z to E ratio
p-Toluenesulfonyl chloride (19.07 mg, 0.10 mmol) is added to a solution of 1-(p-chlorophenyl)-α-fluoro-β-hydroxy-α-(m-phenoxybenzyl)cyclopropanepropionic acid having a 9:1 [R,S and S,R] to [R,R and S,S] ratio (20 mg, 0.05 mmol) in pyridine (2 mL). The reaction mixture is heated to 60° C. and poured into water. The aqueous mixture is extracted with diethyl ether. The organic extracts are combined, washed sequentially with 2 N hydrochloric acid, water, 10% sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the title product as a colorless oil (18 mg, 100%) which is found to have a 9:1 Z to E ratio by NMR spectral analyses.

reactant | p-Toluenesulfonyl chloride | 0.10 mmol, 19.07 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1-(p-chlorophenyl)-α-fluoro-β-hydroxy-α-(m-phenoxybenzyl)cyclopropanepropionic acid | ClC1=CC=C(C=C1)C1(CC1)C(C(C(=O)O)(CC1=CC(=CC=C1)OC1=CC=CC=C1)F)O | C25H22ClFO4
reactant | water | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-(p-Chlorophenyl)-1-[2-fluoro-3-(m-phenoxyphenyl)propenyl]cyclopropane | 18 mg, 100% | ClC1=CC=C(C=C1)C1(CC1)C=C(CC1=CC(=CC=C1)OC1=CC=CC=C1)F | C24H20ClFO
